US05639752
M. 3-(2-Dimethylaminoethyl)-5-(6-ethoxycarbonyl-3-methylthio-1,2,4-triazin-5-ylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 6-carbethoxy-5-chloro-3-methylthio-1,2,4-triazine [Pesson, M. et al., Eur. J. Med. Chem., 269 (1972)] were used. Triethylamine was used as base, tetrahydrofuran was used as solvent, and the reaction was stirred at room temperature for 1 hour. Chromatography afforded the title compound (53%) as an orange solid: mp, 197.0°-199.0° C. with effervescence; 13C NMR (DMSO-d6) δ173.2, 165.5, 150.5, 133.9, 132.5, 127.7, 127.1, 123.9, 116.8, 113.0, 112.2, 111.5, 62.0, 60.0, 45.2, 23.1, 14.0, 13.2; LRMS (m/z, relative intensity) 400 (M30 , 11 ), 386 (5), 195 (11), 163(13), 58 (100). Anal. calcd. for C19H24N6O2S.0.3 H2O: C, 56.22 ; H, 6.11; N, 20.70. Found: C, 55.50; H, 5.89; N, 20.33.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 6-carbethoxy-5-chloro-3-methylthio-1,2,4-triazine | C(=O)(OCC)C1=C(N=C(N=N1)SC)Cl | C7H8ClN3O2S
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-Dimethylaminoethyl)-5-(6-ethoxycarbonyl-3-methylthio-1,2,4-triazin-5-ylamino)-1H-indole | 53% | CN(CCC1=CNC2=CC=C(C=C12)NC=1N=C(N=NC1C(=O)OCC)SC)C | C19H24N6O2S
